US05792861
To a solution of 3-[(R)-2-[(3S,4R)-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl]-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one (7.0 g, 15 mmol) in a solvent mixture of methanol/water (2:1, 45 ml), a 30% aqueous solution of hydrogen peroxide (3.5 g, 30 mmol) was added at room temperature. Then a 28% aqueous solution of sodium hydroxide (2.4 g, 17 mmol) was added dropwise into it and the obtained mixture was stirred until the starting material disappeared in HPLC. After the completion of the reaction, 45 ml of cold water was added to the reaction mixture. After washing with 15 ml of methylene chloride, 35% hydrochloric acid was added to thereby adjust the pH value of the mixture to 3. The crystals thus precipitated were collected by filtration, washed with water and dried. Thus 4.3 g of (R)-2-[(3S,4S)-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionic acid was obtained.

reactant | 3-[(R)-2-[(3S,4R)-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl]-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one | 15 mmol, 7.0 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)N1C(OC2=C(C1=O)C=CC=C2)(C)C)C)=O | C24H36N2O5Si
reactant | methanol water | 45 ml | CO.O
reactant | hydrogen peroxide | 30 mmol, 3.5 g | OO | H2O2
reactant | sodium hydroxide | 17 mmol, 2.4 g | [OH-].[Na+]
solvent | water | 45 ml | O | H2O
product | (R)-2-[(3S,4S)-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionic acid | 4.3 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)O)C)=O | C14H27NO4Si
